US04450164
2-amino-3-phenylmethoxy-4-methlylpyridine was prepared as an oil by reacting 2-amino-3-hydroxy-4-methylpyridine with benzyl chloride followingthe procedures of Example 1, Step A herein.

reactant | 2-amino-3-hydroxy-4-methylpyridine | NC1=NC=CC(=C1O)C | C6H8N2O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 2-amino-3-phenylmethoxy-4-methlylpyridine | NC1=NC=CC(C1OCC1=CC=CC=C1)=C | C13H14N2O
